US04980287
(D) Synthesis of 7-(N-carbobenzoxy-L-prolyl)amino-2-trifluoromethyl-4H-3,1-benzoxazin-4-one
A solution was prepared by dissolving 100 mg of 4-(N-carbobenzoxy-L-prolyl)amino-N-trifluoroacetyl-anthranilic acid in 1 ml of dry ethyl acetate and cooled to a temperature of 0° C. The solution was mixed with 49 mg of N,N'-dicyclohexylcarbodiimide and the resultant mixture was stirred at a temperature of 4° C. for 18 hours. The resultant deposit consisting of N,N'-dicyclohexylurea and separated from the mixture was removed by filtration.

reactant | 4-(N-carbobenzoxy-L-prolyl)amino-N-trifluoroacetyl-anthranilic acid | 100 mg | C(=O)(OCC1=CC=CC=C1)N1[C@H](C(=O)NC=2C=C(C(C(=O)O)=CC2)NC(C(F)(F)F)=O)CCC1 | C22H20F3N3O6
reactant | N,N'-dicyclohexylcarbodiimide | 49 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N,N'-dicyclohexylurea | C1(CCCCC1)NC(=O)NC1CCCCC1 | C13H24N2O
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | 7-(N-carbobenzoxy-L-prolyl)amino-2-trifluoromethyl-4H-3,1-benzoxazin-4-one | C(=O)(OCC1=CC=CC=C1)N1[C@H](C(=O)NC2=CC3=C(C(OC(=N3)C(F)(F)F)=O)C=C2)CCC1 | C22H18F3N3O5
